US05244890
A solution of 5-benzyloxy-2-chloromethyl-4-pyridone (10.0 g) and triphenylphosphine (10.5 g) in N,N-dimethylformamide (50 ml) was stirred for 5 hours at 90°-100° C. The resulting mixture was poured into ethyl acetate (800 ml). The precipitate was collected by filtration, washed with ethyl acetate and dissolved in dichloromethane (500 ml). To the solution were added water (300 ml) and 38% aqueous formaldehyde (100 ml). The mixture was adjusted to pH 10-10.5 with potassium carbonate. After being stirred for 3 hours at 35°-40° C., the organic layer was separated, washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The product was isolated by column chromatography on silica gel with ethyl acetate as an eluent to give 5-benzyloxy-2-vinyl-4-pyridone (6.02 g).

reactant | 5-benzyloxy-2-chloromethyl-4-pyridone | 10.0 g | C(C1=CC=CC=C1)OC=1C(CC(=NC1)CCl)=O | C13H12ClNO2
reactant | triphenylphosphine | 10.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-benzyloxy-2-vinyl-4-pyridone | 6.02 g | C(C1=CC=CC=C1)OC=1C(CC(=NC1)C=C)=O | C14H13NO2
